US05455273
trans-N-(3,4-Dichlorophenylacetyl)-N-methyl-4-[4-(3-hydroxypropyl)methylaminomethylphenyl]cyclohexylamine
141 mg (0.68 mMol) of 3,4-dichlorophenylacetic acid in 5 ml of xylene are mixed with 112 mg (0.54 mMol) of N,N'-dicyclohexylcarbodiimide and heated to 50° C. for 1 hour. After the addition of 200 mg (0.68 mMol) of trans-4-[4-(3-hydroxypropyl)methylaminomethylphenyl]-N-methylcyclohexylamine the mixture is stirred overnight at 140° C. After cooling to ambient temperature and adding ethyl acetate, the mixture is washed with water and saturated saline solution, then dried and evaporated down. After purification by column chromatography (alumina, ethyl acetate/methanol=100:1 to 10:1, v:v), 110 mg (34% of theory) of the title compound are obtained, melting point 82°-84° C.

reactant | 3,4-dichlorophenylacetic acid | 0.68 mMol, 141 mg | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | N,N'-dicyclohexylcarbodiimide | 0.54 mMol, 112 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | trans-4-[4-(3-hydroxypropyl)methylaminomethylphenyl]-N-methylcyclohexylamine | 0.68 mMol, 200 mg | OCCCC1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)NC)CNC | C18H30N2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | trans-N-(3,4-Dichlorophenylacetyl)-N-methyl-4-[4-(3-hydroxypropyl)methylaminomethylphenyl]cyclohexylamine | ClC=1C=C(C=CC1Cl)CC(=O)N(C)[C@@H]1CC[C@H](CC1)C1=C(C=C(C=C1)CCCO)CNC | C26H34Cl2N2O2
